US09447084B2
(2-chloroethyl)(2,2,2-trifluoroethyl)amine
Into a 500-mL round-bottom flask, was placed a solution of N-(2-chloroethyl)-2,2,2-trifluoroacetamide (17.6 g, 100.26 mmol, 1.00 equiv) in tetrahydrofuran (50 mL). This was followed by the addition of BH3.THF (200 mL) dropwise with stirring. The resulting solution was heated to reflux overnight in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 200 mL of H2O. The resulting solution was extracted with 3×100 mL of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 15 g (crude) of (2-chloroethyl)(2,2,2-trifluoroethyl)amine as yellow oil. (ES, m/z): 163 [M+H]+

reactant | N-(2-chloroethyl)-2,2,2-trifluoroacetamide | 100.26 mmol, 17.6 g, 1.00 equiv | ClCCNC(C(F)(F)F)=O | C4H5ClF3NO
reactant | BH3.THF | 200 mL | B.C1CCOC1
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (2-chloroethyl)(2,2,2-trifluoroethyl)amine | ClCCNCC(F)(F)F | C4H7ClF3N
